US08957062B2
Step A: tert-butyl [4-(benzyloxy)-2-methylphenyl]acetate
To a solution of 5-benzyloxy-2-bromotoluene (1 g, 3.61 mmol) in THF (10 ml) was added 2-tert-butoxy-2-oxoethylzinc chloride (18.04 ml, 9.02 mmol). Nitrogen gas bubbled through the mixture for 10 min. then Pd2(dba)3 (0.165 g, 0.180 mmol) and X-PHOS (0.172 g, 0.361 mmol) were added and the resulting mixture heated at 60° C. for 50 min. The mixture was cooled, diluted with ethyl acetate (20 mL), washed with aqueous ammonium chloride (saturated, 1×15 mL), dried over MgSO4, filtered and the solvent evaporated under reduced pressure. The residue was purified by column chromatography on silica gel Biotage 50M, using a gradient eluant of EtOAc/Hexane (0-20%) %) to afford the title compound. LC/MS (m/z): 335(M+Na)+.

reactant | 5-benzyloxy-2-bromotoluene | 3.61 mmol, 1 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C)Br | C14H13BrO
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 9.02 mmol, 18.04 ml | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | X-PHOS | 0.361 mmol, 0.172 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.180 mmol, 0.165 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl [4-(benzyloxy)-2-methylphenyl]acetate | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)C | C20H24O3
